US08455665B2
(S)-3-((R)-2-Ethylsulfanyl-1-hydroxyethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester
Ethanethiol (312 μL, 4.2 mmol) was dissolved in THF (1.0 mL), and the mixture was cooled to 0° C. NaH (50.6 mg, 2.1 mmol) was slowly added in four portions and the mixture was stirred at room temperature for 10 minutes. (S)—(R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester (300 mg, 1.4 mmol) was dissolved in THF (0.4 mL) and added to the mixture. The resulting solution was placed in a microwave reactor for 30 minutes at 100° C., then cooled to room temperature. Hexanes (3×10 mL) was added, followed by water (10 mL). The organic layer was collected, dried over Na2SO4, filtered, and concentrated. The crude product was purified by column chromatography (0-100% EtOAc in hexanes) to yield the title compound as a clear oil (315 mg).

reactant | Ethanethiol | 4.2 mmol, 312 μL | C(C)S | C2H6S
reactant | NaH | 2.1 mmol, 50.6 mg | [H-].[Na+]
reactant | (S)—(R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester | 1.4 mmol, 300 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H]1OC1 | C11H19NO3
reactant | water | 10 mL | O | H2O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
product | (S)-3-((R)-2-Ethylsulfanyl-1-hydroxyethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester | 315 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CSCC)O | C13H25NO3S
